* /home/asharma/eclipse-workspace/ngspice-04-small-signal-rc_freq/small-circuit-rc-pwl.oregano
*----------------------------------------------
*	ngspice - NETLIST
.options OUT=120 
*------------- Models -------------------------
*------------- Circuit Description-------------
C_C1 1 0 1u IC=0
V_V1 2 0 dc 0.0 ac 0.0 PULSE 0.0 0.0 0.0 0.0 0.0 0.0 0.0
R_R1 3 1 1k

*----------------------------------------------
.tran 1.000000e-04 5.000000e-03 0.000000e+00
.print tran  v(2) v(1)

.op

.END
